US07179823B1
A mixture of ethyl(E)-3-[1-(4-benzyloxybenzyl)-4-phenyl-3-pyrrolyl]propenoate (19.50 g), 5% palladium-carbon (20.00 g), and tetrahydrofuran (200 ml) was stirred overnight at room temperature under a hydrogen atmosphere. After the palladium-carbon was removed by filtration, the filtrate was concentrated. The residue was subjected to silica gel column chromatography, and ethyl 3-[1-(4-hydroxybenzyl)-4-phenyl-3-pyrrolyl]propionate (14.92 g, yield: 96%) was obtained as an oily substance from the fraction eluted with ethyl acetate-hexane (1:2, volume ratio).

reactant | ethyl(E)-3-[1-(4-benzyloxybenzyl)-4-phenyl-3-pyrrolyl]propenoate | 19.50 g | C(C1=CC=CC=C1)OC1=CC=C(CN2C=C(C(=C2)C2=CC=CC=C2)/C=C/C(=O)OCC)C=C1 | C29H27NO3
catalyst | palladium-carbon | 20.00 g | [C].[Pd]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | ethyl 3-[1-(4-hydroxybenzyl)-4-phenyl-3-pyrrolyl]propionate | 14.92 g, yield: 96% | OC1=CC=C(CN2C=C(C(=C2)C2=CC=CC=C2)CCC(=O)OCC)C=C1 | C22H23NO3
